US08058285B2
5.0 g (22.5 mmol) 1-(3,4-dimethoxyphenyl)butane-1,3-dione, 2.9 g (29.2 mmol) cyanthioacetamide and 4.0 g (29.2 mmol) potassium carbonate are added by stirring to 170 ml acetone at room temperature for 21 h. Then, the solvent is removed and the residue is just dissolved in ethanol/water (1:1). Following acidification with glacial acetic acid, the resulting precipitate is sucked off, washed with some water, suck dried and dried in vacuo at 50° C. 6.34 g (98%) 2-mercapto-6-(3,4-dimethoxyphenyl)-4-methyl-pyridine-3-carbonitrile is obtained.

reactant | 1-(3,4-dimethoxyphenyl)butane-1,3-dione | 22.5 mmol, 5.0 g | COC=1C=C(C=CC1OC)C(CC(C)=O)=O | C12H14O4
reactant | cyanthioacetamide | 29.2 mmol, 2.9 g | C(#N)CC(=S)N | C3H4N2S
reactant | potassium carbonate | 29.2 mmol, 4.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 170 ml | CC(=O)C | C3H6O
product | 2-mercapto-6-(3,4-dimethoxyphenyl)-4-methyl-pyridine-3-carbonitrile | 6.34 g, 98% | SC1=NC(=CC(=C1C#N)C)C1=CC(=C(C=C1)OC)OC | C15H14N2O2S
